US06344452B1
To a solution of t-butyl 2-(3-nitrophenyl)-2-methyl-propionate (3.6 g) in ethanol (100 mL), 10% palladium carbon (400 mg) was added, followed by stirring at room temperature for 2 hours under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: n-hexane=1:5), whereby tert-butyl 2-(3-aminophenyl)-2-methylpropionate (2.87 g) was obtained.

reactant | t-butyl 2-(3-nitrophenyl)-2-methyl-propionate | 3.6 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)OC(C)(C)C)(C)C | C14H19NO4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium carbon | 400 mg | [C].[Pd]
product | tert-butyl 2-(3-aminophenyl)-2-methylpropionate | 2.87 g | NC=1C=C(C=CC1)C(C(=O)OC(C)(C)C)(C)C | C14H21NO2
